*******************************************************************************
* Copyright (C) Maxim Integrated Products, Inc., All Rights Reserved.
*
* Permission is hereby granted, free of charge, to any person obtaining a
* copy of this software and associated documentation files (the "Software"),
* to deal in the Software without restriction, including without limitation
* the rights to use, copy, modify, merge, publish, distribute, sublicense,
* and/or sell copies of the Software, and to permit persons to whom the
* Software is furnished to do so, subject to the following conditions:
*
* The above copyright notice and this permission notice shall be included
* in all copies or substantial portions of the Software.
*
* THE SOFTWARE IS PROVIDED "AS IS", WITHOUT WARRANTY OF ANY KIND, EXPRESS
* OR IMPLIED, INCLUDING BUT NOT LIMITED TO THE WARRANTIES OF
* MERCHANTABILITY, FITNESS FOR A PARTICULAR PURPOSE AND NONINFRINGEMENT.
* IN NO EVENT SHALL MAXIM INTEGRATED BE LIABLE FOR ANY CLAIM, DAMAGES
* OR OTHER LIABILITY, WHETHER IN AN ACTION OF CONTRACT, TORT OR OTHERWISE,
* ARISING FROM, OUT OF OR IN CONNECTION WITH THE SOFTWARE OR THE USE OR
* OTHER DEALINGS IN THE SOFTWARE.
*
* Except as contained in this notice, the name of Maxim Integrated
* Products, Inc. shall not be used except as stated in the Maxim Integrated
* Products, Inc. Branding Policy.
*
* The mere transfer of this software does not imply any licenses
* of trade secrets, proprietary technology, copyrights, patents,
* trademarks, maskwork rights, or any other form of intellectual
* property whatsoever. Maxim Integrated Products, Inc. retains all
* ownership rights.
*******************************************************************************
*
.SUBCKT MAX4230_mod 1 2 3 4 5
*               | | | | |
*               | | | | Output
*               | | | Negative Supply
*               | | Positive Supply
*               | Inverting Input
*               Non-inverting Input
*
*
*#ASSOC Category="Op-amps" symbol=Maxim_opamp_5_term
* The following op-amps are covered by this model:
*      MAX4230,MAX4232,MAX4234
*
* Date of model creation: 12-1-2020_8:07:13_PM
* Level of Model Creator: 5.21_V1.6 / 05-21-19
*
* Revision History:
*      V1.0 -  4/29/2019, Initial Input
*      V1.1 - IB Adjustment - 12/01/20
*       
*       
*       
*
* Recommendations:
*      Use PSPICE (or SPICE 2G6; other simulators may require translation)
*      For a quick, effective design, use a combination of: data sheet
*            specs, bench testing, and simulations with this macromodel
*      For high impedance circuits, set GMIN=100F in the .OPTIONS statement
*
* Supported:
*      Typical performance for temperature range (-40 to 125) degrees Celsius
*      DC, AC, Transient, and Noise analyses.
*      Most specs, including: offsets, DC PSRR, DC CMRR, input impedance,
*            open loop gain, voltage ranges, supply current, ... , etc.
*      Temperature effects for Ibias, Iquiescent, Iout short circuit 
*            current, Vsat on both rails, Slew Rate vs. Temp and P.S.
*
* Not Supported:
*      Some Variation in specs vs. Power Supply Voltage
*      Vos distribution, Ib distribution for Monte Carlo
*      Distortion (detailed non-linear behavior)
*      Some Temperature analysis
*      Process variation
*      Behavior outside normal operating region
*
* Known Discrepancies in Model vs. Datasheet:
*
*?@ Start SIMPLIS Encryption $$WC_SIMPLIS_ENCRYPT_TAG$$       
*
* CM / DM Input Parameters 
C2  1 4 8.00P
C3  2 4 8.00P
R19  1 4 1.00G
R20  2 4 1.00G
R21  1 2 1.00E12
* Differential Stage 
V1  3 10 -200M
R1 10 11 69.0K
R2 10 12 69.0K
G1 10 11 10 11 1.44M
G2 10 12 10 12 1.44M
C1 11 12 11.5E-15
MQ1 11 14 15 15 NMI 
MQ2 12 2 15 15 NMI 
I1 15 4 500U
V3 16 4 0.00
GD2 16 1 TABLE { V(16,1) } ((-100,-1.00E-15)(0,0)(1m,1u)(2m,1m)) 
V2 3 13 0.00
GD1 2 13 TABLE { V(2,13) } ((-100,-1.00E-15)(0,0)(1m,1u)(2m,1m)) 
* Noise Stage 
I2 21 20 100
D1 20  0 DN1
D2  0 21 DN1
I3 22 23 1N
R10 22 0  1k
R11  0 23 1k
E1 71 14 VALUE { (930U) + V(20) * 1.74 + V(21) * 1.74 + V(22) * 1.74 + V(23) * 1.74 }
I8 0 70 DC 1
R22 0 70 1 TC=3.00U
E5 1 71 VALUE {V(70)-1}
EG1 VIBIAS 0 62 0 1
EG2 VIBIOS 0 63 0 1
EB1 VIB1 0 VALUE { (V(VIBIAS)+V(VIBIOS)) /2 }
EB2 VIB2 0 VALUE { (V(VIBIAS)-V(VIBIOS)) /2 }
GB1 1 0 VIB1 0 1u
GB2 2 0 VIB2 0 1u
I6 0 62 DC 1uA
R17 0 62 REXP  1.09904
I7 0 63 DC 1uA
V100 63A 63 DC 0
R18 0 63A 50.0 TC=0.00,0.00
R16 0 61 1 TC=2.39M,-4.74U
G61 3 4 61 0 1
G60 0 61 TABLE { V(3, 4) } ((0, 0)(1.00,11.0U)(2.00,400U)(2.5,950U)(3.00,1.09M)(3.5,1.1M)(4.00,1.12M)
+ (4.5,1.15M)(5.00,1.18M)(5.5,1.22M))
* PSRR / CMRR 
G23  0 57 VALUE { V(35) * 10.0M + V(118) + V(128) + V(137) } 
G30 0 110 3 0 44.6U
R30 110 0 1G 
GR30 110 0 110 0 1m 
C30 110 0 1.59U
G31 0 111 110 0 1 
L31 111 112 353U
R32 112 0 1G 
GR32 112 0 112 0 1 
G33 0 114 111 0 1 
R34 114 0 1G 
C34 114 0 39.7U
GR34 114 0 114 0 1 
G35 0 115 114 0 1 
L35 115 116 13.2U
R36 116 0 1G 
GR36 116 0 116 0 1 
G37 0 117 115 0 1 
R37 117 0 1G 
C37 117 0 159E-15
GR37 117 0 117 0 1 
G38 0 118 117 0 1 
L38 118 119 31.8N
R39 119 0 1G 
GR39 119 0 119 0 1 
G40 0 120 4 0 44.6U
R40 120 0 1G 
GR40 120 0 120 0 1m 
C40 120 0 1.59U
G41 0 121 120 0 1 
L41 121 122 353U
R42 122 0 1G 
GR42 122 0 122 0 1 
G43 0 124 121 0 1 
R44 124 0 1G 
C44 124 0 39.7U
GR44 124 0 124 0 1 
G45 0 125 124 0 1 
L45 125 126 13.2U
R46 126 0 1G 
GR46 126 0 126 0 1 
G147 0 127 125 0 1 
R47 127 0 1G 
C47 127 0 159E-15
GR47 127 0 127 0 1 
G48 0 128 127 0 1 
L48 128 129 31.8N
R49 129 0 1G 
GR49 129 0 129 0 1 
G50 0 130 VALUE { ( V(15) ) * 316U}
R50 130 0 1G 
GR50 130 0 130 0 1m 
C50 130 0 1.59U
G51 0 131 130 0 1 
L51 131 132 1.59N
R51 132 0 1G 
GR51 132 0 132 0 1 
G53 0 133 131 0 1 
R53 133 0 1G 
C53 133 0  1.59N
GR53 133 0 133 0 1 
G55 0 134 133 0 1 
L55 134 135 1.59N
R55 135 0 1G 
GR55 135 0 135 0 1 
G57 0 137 134 0 1 
R57 137 0 1G 
C57 137 0  1.59N
GR57 137 0 137 0 1 
*
* OP Amp Output Gain / Response 
G3  0 30 12 11 1
R3 30  0 1.00K
G4 0 31 3 4 0.00
I4 0 31 DC 159
R4 31 0 1
E_VDDMAX VDE 0 3 4 1
V_VDD1 31VDD1 0 2.00
V_VDD2 31VDD2 0 1.00
G_ABMII2 0 31B VALUE { V(31)*(LIMIT(((V(31VDD1)-V(VDE))/(V(31VDD1)-V(31VDD2))), 0, 1))}
R_R3 31A 0 1 TC=0.00, 0.00
G_ABMII1 0 31A VALUE { V(31)*(LIMIT(((V(VDE)-V(31VDD2))/(V(31VDD1)-V(31VDD2))), 0, 1))}
G_G6 30 31C TABLE { V(30, 31C) } ((-100,-1n)(0,0)(1m,0.1)(2m,2))
E_ABM1 31C 0 VALUE { (V(31A) + V(31B)) }
R_R8 31B 0 1 TC=0.00, 0.00
G5 32 0 3 4 0.00
I5 32 0 DC 159
R5 32  0 1 
G_ABMII22 32B 0 VALUE { V(32)*(LIMIT(((V(31VDD1)-V(VDE))/(V(31VDD1)-V(31VDD2))), 0, 1))}
R_R23 32A 0 1 TC=0.00, 0.00
G_ABMII21 32A 0 VALUE { V(32)*(LIMIT(((V(VDE)-V(31VDD2))/(V(31VDD1)-V(31VDD2))), 0, 1))}
G_G26 32C 30 TABLE { V(30, 32C) } ((-2m,2)(-1m,0.1)(0,0)(100,-1n))
E_ABM21 0 32C VALUE { (V(32A) + V(32B)) }
R_R28 32B 0 1 TC=0.00, 0.00
G6  0 33 30 0 1m
R6  33 0 1K
G7  0 34 33 0 100M
R7  34 0 1K
C7  34 0 1.59U
G8  0 37 34 0 1m
R8  37 0 1K
C8  37 0 2.27P
G9  0 38 37 0 1m
R9  39 0 1K
L9  38 39 15.9N
E9  35 0 38 0 1
G10 33 0 TABLE { V(35,3) } ((-1,-1p)(0,0)(200,1n))(220,1))
G11 33 0 TABLE { V(35,4) } ((-220,-1)((-200,-1n)(0,0)(1,1p))
* Output Impedance / Saturation / Current Limit 
R23 50 0 100MEG
G20 0 50 57 96 2
R15 57  96 0.50
R14 57  0 100
GD8 55 57 TABLE { V(55,57) } ((-0.2m,-250)(-0.1m,-1m)(0,0)(10,1p))
GD9 57 56 TABLE { V(57,56) } ((-0.2m,-250)(-0.1m,-1m)(0,0)(10,1p))
E3 55  0 VALUE { 0.00 + V(3) * 1 + V(51) * -12.3M }
E4 56  0 VALUE { 0.00 + V(4) * 1 + V(52) * -13.2M }
R12 51 0 1k
R13 52 0 1k
GD12 50 51 TABLE { V(50,51) } ((-10,-1n)(0,0)(1m,1m)(2m,1))
GD13 50 52 TABLE { V(50,52) } ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
G21  3  0 VALUE { -500U + V(51) * 1M }
G22  0  4 VALUE { -500U + V(52) * -1M }
G71 96 5 99 0 1
GD24A 98 98A TABLE { V(98,98A) } ((-3m,-1000)(-2m,-10)(-1m,-1)(0,0)(1,1n))
GD24B 98 98B TABLE { V(98,98B) } ((-1,-1n)(0,0)(1m,1)(2m,10)(3m,1000))
R24A 0 98A 1 TC=0.00,0.00
R24B 0 98B 1 TC=0.00,0.00
G70 0 98 TABLE { V(96,5) } ((-11.0,-70.0M)(-1.00M,-69.3M)(0,0)(1.00M,69.3M)(11.0,70.0M))
E6 99 0 VALUE { V(98) * LIMIT((( V(3) - V(4) ) * 807M + -1.18), 0.00, 1E6 ) * LIMIT((( V(3) - V(4) ) * 833M + -1.25), 0, 1) }
D3 4 5 DESD
D4 5 3 DESD
* Models
.MODEL NMI NMOS(L=2.00U W=42.0U KP=200U LEVEL=1 )
.MODEL DESD  D   N=1 IS=1.00E-15
.MODEL DN1 D   IS=1P KF=5.00N AF=1
.MODEL REXP  RES TCE= 4.74559
*
*?@ End SIMPLIS Encryption
*
.ENDS MAX4230




